Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:10].[H:1][C:2]#[C:3][C:4]([H:5])([H:6])/[C:7]=[C:8](\[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],-1.82291364481
[O:1]=[C:2]=[C:6]([O:5][C:3][H:4])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]1[C:3]([H:4])[O:5][C:6]1[C:7]([H:8])([H:9])[H:10],-0.5074995046
[H:12].[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C@@:7]([H:8])([C:9]([H:10])[H:11])[C:13]([H:14])([H:15])[H:16]>>[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-4.57866485131
[H:4].[O:1]=[C:2]([H:3])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10](=[O:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])[C:10](=[O:11])[H:12],-1.0598462889
[H:1][C:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9]/[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])#[C:9][C:10]([H:11])([H:12])[H:13].[H:1][C:2][C:3]([H:4])=[C:5][H:6],1.98687877822
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[C:8]([H:9])([H:10])=[C:11]([H:12])[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])[H:7],0.70468538635
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][O:3][C:4]([H:5])([H:6])[C@:7]([H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.29554249374
[H:1][C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12]>>[C:4](\[O:5][H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3],6.20015470832
[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([O:7][H:8])=[C:9]([H:10])[H:11]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([O:7][H:8])([C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.07928612219
[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:15].[H:1][C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],4.57099629762
[C:7]([H:8])=[C:9]([H:10])[H:11].[H:1][O:2][C:3][C:4]([H:5])=[O:6]>>[H:1][O:2]/[C:3]=[C:4](\[H:5])[O:6][C:7]([H:8])=[C:9]([H:10])[H:11],-2.82808676128
[H:1][C:2][O:3][C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12]>>[H:1][C:2].[O:3]=[C:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][H:12],2.18147415808
[H:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:4](\[H:5])([O:6][H:7])=[C:8](/[H:9])[C:10]([H:11])([H:12])[H:13].[H:1][C:2]#[C:3],2.75670844394
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])=[C:11]([H:12])[H:13]>>[H:10].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7][O:8][C:9]=[C:11]([H:12])[H:13],5.12302271266
[H:1][O:2][O:3]/[C:4]([H:5])=[C:6]/[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][O:2][O:3][C:4]#[C:6][C:7]([H:8])([H:9])[C:10]([H:11])[H:12].[H:5],2.25001012025
[H:1][O:2][C:3]([C:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16]>>[C:3](=[C:4][C:5]([H:6])([H:7])[H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2],2.8620201477
[H:1][O:2]/[C:3](=[C:4](\[H:5])[O:6][H:7])[C:8]([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3]1[C@:4]([H:5])([O:6][H:7])[C@@:8]1([H:9])[C:10]([H:11])([H:12])[H:13],1.22376423796
[H:1][C:2][O:3][C:4]([H:5])[C:7]#[C:8][H:9].[H:6]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]#[C:8][H:9],-3.84396542907
[H:1][C:2]([H:3])=[C:4]=[C:5]([H:6])[O:8][C:9][C:10]([H:11])([H:12])[H:13].[H:7]>>[H:1][C:2]([H:3])=[C:4][C:5]([H:6])([H:7])[O:8][C:9][C:10]([H:11])([H:12])[H:13],-1.81639118104
[C:1]#[C:2][O:3][C:4](=[C:5])[O:7][H:8].[H:6]>>[C:1]#[C:2][O:3][C:4](=[C:5][H:6])[O:7][H:8],-4.81530711309
[H:1][O:2][C@:3]([H:4])([O:5][C:6]([H:7])[H:8])[C:9]([H:10])=[C:11]([H:12])[H:13]>>[C:3](\[H:4])([O:5][C:6]([H:7])[H:8])=[C:9](/[H:10])[C:11]([H:12])[H:13].[H:1][O:2],4.51513200823
[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]=[C:11]([H:12])[H:13]>>[H:13].[H:1][O:2][C:3]([H:4])([O:5][H:6])[C:7]([H:8])([H:9])[C:10]#[C:11][H:12],1.98197413799
[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8][O:9][C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]=[O:9],1.56291632122
[C:8]([H:9])([H:10])=[C:13]([H:14])[H:15].[H:1][C:2]([H:3])[C:4]([H:5])=[C:7]=[C:11]([H:6])[H:12]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[C:7](=[C:8]([H:9])[H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-1.21776612119
[H:12].[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])[H:11]>>[O:1]=[C:2]([H:3])[O:4]/[C:5]([H:6])=[C:7](\[H:8])[C:9]([H:10])([H:11])[H:12],-3.62951226084
[H:1][C:2][O:3][C@@:4]1([H:5])[O:6][C:7]1[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7][C:8]([H:9])([H:10])[H:11],1.82032520498
[H:1][C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[O:9][H:10]>>[C:2]#[C:3]/[C:4]([O:5][H:6])=[C:7](\[H:8])[O:9][H:10].[H:1],5.1004914254900005
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12]>>[C:4]([H:5])([H:6])[C:7]([H:8])=[C:9]=[C:10]([H:11])[H:12].[H:1][O:2][O:3],2.32144571716
